US07763630B2
N-Hydroxy-N-methyl-tetrahydro-2H-pyran-4-carboxamidine.
To a mixture of tetrahydro-2H-pyran-4-carbonitrile (1.0 g, 9.0 mmol), N-methyl hydroxylamine hydrochloride (1.13 g, 13.5 mmol) in EtOH/H2O (1:1, 20 mL) was added sodium carbonate (0.71 g, 6.75 mmol) and H2O (10 mL) to dissolve. The mixture as stirred at 100° C. for 3 h then cooled and concentrated. The residue was triturated with 10% MeOH/CH2Cl2. The mixture was filtered to give the title compound as a white solid (0.92 g, 65% yield). 1H NMR (300 MHz, CDCl3) δ: 4.05 (2H, dd, J=11.2, 3.5 Hz), 3.54 (3H, s), 3.44 (2H, td, J=11.8, 12.3 Hz), 2.48-2.74 (1H, m), 1.83-1.69 (4H, m). LCMS (M+H) calcd for C7H15N2O2: 159.11; found: 159.07.

reactant | tetrahydro-2H-pyran-4-carbonitrile | 9.0 mmol, 1.0 g | O1CCC(CC1)C#N | C6H9NO
reactant | N-methyl hydroxylamine hydrochloride | 13.5 mmol, 1.13 g | Cl.CNO
reactant | sodium carbonate | 6.75 mmol, 0.71 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | H2O | 10 mL | O | H2O
solvent | EtOH H2O | 20 mL | CCO.O
product | N-Hydroxy-N-methyl-tetrahydro-2H-pyran-4-carboxamidine | 0.92 g, 65% yield | ON(C(=N)C1CCOCC1)C | C7H14N2O2
